US07943669B2
{4-[3-Bromo-5-(3-morpholin-4-yl-propoxy)-phenylsulfanyl]-2-chloro-phenoxy}-acetic Acid Ethyl Ester
[4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-chloro-phenoxy]-acetic acid ethyl acetate (1.7 g; 4.07 mmol), N-(3-hydroxypropyl)morpholine (0.59 g; 4.07 mmol) and tributylphosphine (1.8 g; 7.33 mmol) were dissolved in THF (100 mL) in a dried reaction flask under an atmosphere of nitrogen. 1,1′-(Azodicarbonyl)dipiperidine (1.85 g; 7.33 mmol) dissolved in THF (50 mL) was added to the reaction mixture, which was stirred at room temperature for 16 h. The reaction mixture was evaporated to dryness and purified by flash chromatography (ethyl acetate:heptane). Yield: 1.1 g. HPLC-MS: m/z: 544.0 (M+); Rt: 1.78 min.

reactant | [4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-chloro-phenoxy]-acetic acid ethyl acetate | 4.07 mmol, 1.7 g | C(C)OC(C)=O.BrC=1C=C(C=C(C1)O)SC1=CC(=C(OCC(=O)O)C=C1)Cl
reactant | N-(3-hydroxypropyl)morpholine | 4.07 mmol, 0.59 g | OCCCN1CCOCC1 | C7H15NO2
reactant | tributylphosphine | 7.33 mmol, 1.8 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 7.33 mmol, 1.85 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | {4-[3-Bromo-5-(3-morpholin-4-yl-propoxy)-phenylsulfanyl]-2-chloro-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCCCN1CCOCC1)Br)Cl)=O | C23H27BrClNO5S
